### PR TITLE
Sum sort theory

### PR DESCRIPTION
**Pull request by adilido99**
the following theorems need to be named and moved: t1, t2, unnamed, unnamed_1
the admits are as follows: t3, membership_axiom_v1/v2

### CODE REVIEW

**Comment by adilido99** [comment]
changes resolved, ready to merge :)

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 1]
```diff
@@ -0,0 +1,729 @@
...
+    1:{ unfold nest_ex. rewrite nest_ex_aux_wfcex. clear H. wf_auto2. clear H. wf_auto2. }
+    unfold nest_ex.
+    rewrite nest_ex_aux_wfcex.
+    1:{ clear H. wf_auto2. }
+    rewrite bevar_subst_not_occur.
+    1:{ clear H. wf_auto2. }
+    mlAssumption.
+  Defined.
+  
+  Theorem t1:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:205]: Please, rename this theorem, and move it to `Definedness_ProofSystem.v`. My suggestion for the name: `subset_iff_eq`.

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 2]
```diff
@@ -0,0 +1,729 @@
...
+      intros.
+      toMLGoal.
+      1:wf_auto2.
+      epose proof patt_total_and Γ (φ ---> φ') (φ'--->φ) H ltac:(wf_auto2) ltac:(wf_auto2) .
+      use i in H2.
+      apply pf_iff_equiv_sym_nowf in H2.
+      mlExactMeta H2.
+    Qed.
+    
+   Theorem t2:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:222]: Please, rename this theorem, and move it to `Definedness_ProofSystem.v`. My suggestion for the name: `subset_disj`.

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 3]
```diff
@@ -0,0 +1,729 @@
...
+        mlIntro.
+        mlDestructOr "0";
+        mlDestructAnd "H".
+        + mlApply "0".
+          mlAssumption.
+        + mlApply "1".
+          mlAssumption.
+    Qed.
+    
+   Theorem  provable_iff_top:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:267]: Move this theorem to `ProofMode/Propositional.v`

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 4]
```diff
@@ -0,0 +1,729 @@
...
+    intros.
+    mlSplitAnd.
+    2:{ mlIntro. mlExactMeta H0. }
+    mlIntro.
+    pose proof top_holds Γ.
+    use i in H1.
+    mlExactMeta H1.
+  Defined.
+  
+  Theorem  patt_and_id_r:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:282]: Move this theorem to ProofMode/Propositional.v

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 5]
```diff
@@ -0,0 +1,729 @@
...
+       φ =ml φ' using i.
+    Proof.
+      intros.
+      toMLGoal.
+      1:wf_auto2.
+      epose proof patt_total_and Γ (φ ---> φ') (φ'--->φ) H ltac:(wf_auto2) ltac:(wf_auto2) .
+      use i in H2.
+      apply pf_iff_equiv_sym_nowf in H2.
+      mlExactMeta H2.
+    Qed.
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:220]: Replace `Qed`-s with `Defined` everywhere, please.

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 6]
```diff
@@ -0,0 +1,729 @@
...
+      mlDestructAnd "0".
+      mlAssumption.
+    * mlIntro.
+      mlSplitAnd.
+      1: mlAssumption.
+      mlIntro.
+      mlAssumption.
+  Defined.
+  
+  Theorem proved_membership_functional:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:299]: Please, move this theorem to `FOEquality_ProofSystem.v`

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 7]
```diff
@@ -0,0 +1,729 @@
...
+    mlSimpl. cbn.
+    rewrite evar_open_not_occur.
+    wf_auto2.
+    mlRewriteBy "0" at 1.
+    pose proof defined_evar Γ x H.
+    use AnyReasoning in H4.
+    mlExactMeta H4.
+  Defined.
+
+  Theorem unnamaed:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:329]: Rename this theorem please, and move it into `Definedness_ProofSystem.v`. My name suggestion is `total_iff_top`.

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 8]
```diff
@@ -0,0 +1,729 @@
...
+      1-2:wf_auto2.
+      mlIntro "H".
+      mlDestructAnd "H".
+      mlApply "1".
+      pose proof top_holds Γ.
+      use AnyReasoning in H1.
+      mlExactMeta H1.
+  Defined.
+
+  Theorem unnamaed_1:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:365]: Move this please into `Sorts_ProofSystem.v`, and rename it, for example to `top_includes_everything`.

File: matching-logic/src/Experimental/SumSort_ProofSystem.v [hunk 9]
```diff
@@ -0,0 +1,729 @@
...
+    * unfold  is_functional.
+      mlExists x.
+      mlSimpl. cbn.
+      mlReflexivity.
+    * pose proof top_holds Γ.
+      use AnyReasoning in H1.
+      mlExactMeta H1.
+  Defined. 
+  
+  Theorem t3:
```
Comment (berpeti) [inline matching-logic/src/Experimental/SumSort_ProofSystem.v:382]: Rename this to `subseteq_iff_membership`

**Review by berpeti — CHANGES_REQUESTED** [review]

**Review by berpeti — APPROVED** [review]
